US05760041
A solution of 0.93 g of 3-phenyl-2-propynoic acid in 10 ml of tetrahydrofuran was cooled in an ice bath. A 0.82 ml portion of isobutyl chloroformate followed by a 0.69 ml portion of N-methyl morpholine were added. After about 1 minute a solution of 1.0 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 7 ml of pyridine was added. The reaction at 0° C. for 1 hr. The solvents were removed at reduced pressure and the solid was purified by chromatography on silica gel to give 0.01 g of N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-(3-phenyl-2-propynamide): mass spectrum (m/e): 443.2, 445.2 (M+H, electrospray).

reactant | 3-phenyl-2-propynoic acid | 0.93 g | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.0 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-(3-phenyl-2-propynamide) | 0.01 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CC1=CC=CC=C1)=O | C23H15BrN4O
